US08703768B2
Step 2: 5-tert-Butoxycarbonylamino-[1,2,3]thiadiazole-4-carboxylic acid
A solution of 5-tert-butoxycarbonylamino-[1,2,3]thiadiazole-4-carboxylic acid ethyl ester (0.87 g, 2.9 mmol) in a THF/ethanol mixture (18 ml; 3:1) was cooled to 0° C. and treated with lithium hydroxide (8.6 ml; 1N aqueous solution). After 15 min, the cooling bath was removed and the reaction mixture was stirred for 4 h at ambient temperature. The solvent was evaporated, and the residue was partitioned between diethylether (30 ml) and water (5 ml) and extracted. The aqueous phase was extracted with diethylether and the ether phases were washed with water. The combined aqueous phases were acidified with HCl (9 ml, 1N aqueous solution) and extracted with dichloromethane (2×40 ml). The combined organic layers were washed with water, dried and the solvent was evaporated to yield the product as colorless solid (0.66 g, 94%) which was used without any further purification.

reactant | 5-tert-butoxycarbonylamino-[1,2,3]thiadiazole-4-carboxylic acid ethyl ester | 2.9 mmol, 0.87 g | C(C)OC(=O)C=1N=NSC1NC(=O)OC(C)(C)C | C10H15N3O4S
reactant | lithium hydroxide | 1N, 8.6 ml | [OH-].[Li+]
solvent | THF ethanol | 18 ml | C1CCOC1.C(C)O
product | 5-tert-Butoxycarbonylamino-[1,2,3]thiadiazole-4-carboxylic acid | 0.66 g, 94% | C(C)(C)(C)OC(=O)NC1=C(N=NS1)C(=O)O | C8H11N3O4S
